US08859732B2
3,4,5-Tris(octadecyloxy)cyclohexylmethyl alcohol (238 mg, 0.26 mmol), 4-hydroxy-2-methoxybenzaldehyde (79 mg, 0.52 mmol) and triphenylphosphine (149 mg, 0.57 mmol) were dissolved in THF (6 ml), diisopropyl azodicarboxylate (115 mg, 0.57 mmol) was added, and the mixture was stirred for 5.5 hr. Water (1 ml) was added to the reaction mixture and the mixture was concentrated. The residue was precipitated with acetonitrile (2.5 ml) to give 2-methoxy-4-[3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy]benzaldehyde (272 mg, 0.26 mmol, 100%).

reactant | 3,4,5-Tris(octadecyloxy)cyclohexylmethyl alcohol | 0.26 mmol, 238 mg | C(CCCCCCCCCCCCCCCCC)OC1CC(CC(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)CO | C61H122O4
reactant | 4-hydroxy-2-methoxybenzaldehyde | 0.52 mmol, 79 mg | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | triphenylphosphine | 0.57 mmol, 149 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.57 mmol, 115 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | Water | 1 ml | O | H2O
product | 2-methoxy-4-[3′,4′,5′-tris(octadecyloxy)cyclohexylmethyloxy]benzaldehyde | 0.26 mmol, 272 mg, 100% | COC1=C(C=O)C=CC(=C1)OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C69H128O6
